US07572820B2
1-(2,2-Dimethylpropyl)-2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 4 using 2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile and 1-bromo-2,2-dimethylpropane: 1H NMR (400 MHz, CDCl3) δ 7.51 (d, J=8.5 Hz, 1H), 7.45 (d, J=8.5 Hz, 1H), 6.59 (s, 1H), 3.94 (s, 2H), 2.49 (s, 3H), 1.01 (s, 9H); MS (ES) m/z 295 (M+1).

reactant | 2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | CC=1NC2=CC=C(C(=C2C1)C(F)(F)F)C#N | C11H7F3N2
reactant | 1-bromo-2,2-dimethylpropane | BrCC(C)(C)C | C5H11Br
product | 1-(2,2-Dimethylpropyl)-2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | CC(CN1C(=CC2=C(C(=CC=C12)C#N)C(F)(F)F)C)(C)C | C16H17F3N2
